US07425649B2
In Scheme B, Mitsunobu reaction of 1,3-diol B-B with phenol B-A provides alcohol B-C by employing a triarylphosphine such as triphenylphosphine, and an azodicarbonyl reagent such as diisopropyl azodicarboxylate, in a suitable solvent such as THF. Phenoxyacetic acid ethyl ester B-D is obtained in two steps: (1) conversion of the alcohol B-C to mesylate under standard conditions by employing methanesulfonyl chloride and triethylamine in an appropriate solvent such as CH2Cl2, and (2) alkylation of benzenethiol B-D, prepared according to Scheme A above, with the mesylate intermediate using a suitable base such as Cs2CO3, K2CO3, or NaH, in an appropriate solvent such as CH3CN or THF, under nitrogen. Under standard saponification conditions phenoxyacetic acid ethyl ester B-D is converted to acid B-E under nitrogen. The preferred hydrolysis conditions include using NaOH as a base in an aqueous alcoholic solvent system such as water-methanol, or using LiOH as a base in a milder water-THF system.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | THF | C1CCOC1 | C4H8O
product | Phenoxyacetic acid ethyl ester | C(C)OC(COC1=CC=CC=C1)=O | C10H12O3
